US05169856
(E)-3-Phenyl-N-acetyl-N-[2-(1-benzylpiperidin-4yl)ethyl]-2-propenamide.hydrochloride
A pyridine solution (5 ml) of (E)-3-phenyl-N-[2-(1-benzylpiperidin-4-yl)ethyl]-2-propenamide. hydrochloride (0.25 g) and acetyl chloride (0.3 ml) was stirred at 60° C. for 2 hours. Water was added to the reaction mixture after being left standing for cooling; the mixture was dried over anhydrous sodium sulfate. The solvent was distilled off. The oily residue was subjected to silica gel column chromatography (developing solvent : ethyl acetate). The solvent of the solution containing the object compound was distilled off. To the residue was added an ethanol solution of 3N hydrogen chloride. The solvent was then distilled off to obtain hydroscopic amorphous powder (0.16 g).

reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
reactant | (E)-3-phenyl-N-[2-(1-benzylpiperidin-4-yl)ethyl]-2-propenamide. hydrochloride | 0.25 g | Cl.C1(=CC=CC=C1)/C=C/C(=O)NCCC1CCN(CC1)CC1=CC=CC=C1
reactant | acetyl chloride | 0.3 ml | C(C)(=O)Cl | C2H3ClO
solvent | Water | O | H2O
product | (E)-3-Phenyl-N-acetyl-N-[2-(1-benzylpiperidin-4yl)ethyl]-2-propenamide.hydrochloride | 0.16 g | Cl.C1(=CC=CC=C1)/C=C/C(=O)N(CCC1CCN(CC1)CC1=CC=CC=C1)C(C)=O | InChI=1S/C25H30N2O2.ClH/c1-21(28)27(25(29)13-12-22-8-4-2-5-9-22)19-16-23-14-17-26(18-15-23)20-24-10-6-3-7-11-24;/h2-13,23H,14-20H2,1H3;1H/b13-12+;
